US06921763B2
N2-(4-{4-Amino-1-[(3S)-1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine monoacetate was prepared from (R)-(+)-3-pyrrolidinol in a manner analogous to that used for the preparation of rac-N2-(4-{4-amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine. The compound was formed as a pink solid (0.103 g, 53%). 1H NMR (DMSO-d6, 400 MHz) 1.89 (s, 3H), 2.28-2.31 (m, 2H), 2.35 (s, 3H), 2.40 (s, 3H), 2.65 (t, 2H), 2.73-2.87 (m, 2H), 3.17 (t, 2H), 3.24 (s, 3H), 3.45 (t, 2H), 5.37 (m, 1H), 6.79 (s, 1H), 7.11 (s, 1H), 7.66 (d, 2H), 7.93 (d, 2H), 8.24 (s, 1H), 10.59 (s, 2H); RP-HPLC Rt 11.607 min, 95% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 499 (MH+).

reactant | (R)-(+)-3-pyrrolidinol | N1C[C@@H](CC1)O | C4H9NO
reactant | rac-N2-(4-{4-amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(CC1)CCOC | C27H30N8O2
product | N2-(4-{4-Amino-1-[(3S)-1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine monoacetate | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)[C@@H]1CN(CC1)CCOC | InChI=1S/C27H30N8O2.C2H4O2/c1-16-12-17(2)24-21(13-16)32-27(37-24)31-19-6-4-18(5-7-19)23-22-25(28)29-15-30-26(22)35(33-23)20-8-9-34(14-20)10-11-36-3;1-2(3)4/h4-7,12-13,15,20H,8-11,14H2,1-3H3,(H,31,32)(H2,28,29,30);1H3,(H,3,4)/t20-;/m0./s1
